US07547782B2
A) 2-Chloro-N-methylnicotinamide
Methanamine (0.425 mL, 3.41 mmol) and triethylamine (0.792 mL, 5.68 mmol) were dissolved in CH3CN (14.2 mL) at 23° C. 2-Chloronicotinoyl chloride (500 mg, 2.84 mmol) was added and the reaction mixture was stirred at 23° C. for 16 h. The solvent was removed by rotary evaporation and the residue was partitioned between EtOAc (20 mL) and sat. aq. NaHCO3 (20 mL). The aqueous phase was extracted with EtOAc (3×20 mL). The combined organic phases were dried over MgSO4 and concentrated. Trituration of the resulting solid with 5% EtOAc-hexane provided the desired product as a white powder (153.2 mg, 31%). 1H NMR (CD3OD) δ 8.43 (dd, 1H, J=5.09, 2.03 Hz), 7.88 (dd, 1H, J=7.63, 2.03 Hz), 7.45 (dd, 1H, J=7.38, 4.83 Hz), 2.91 (s, 3H); MS(ESI+) m/z 171.1 (M+H)+.

reactant | Methanamine | 3.41 mmol, 0.425 mL | CN | CH5N
reactant | triethylamine | 5.68 mmol, 0.792 mL | C(C)N(CC)CC | C6H15N
reactant | 2-Chloronicotinoyl chloride | 2.84 mmol, 500 mg | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
solvent | CH3CN | 14.2 mL | CC#N | C2H3N
product | 2-Chloro-N-methylnicotinamide | 153.2 mg, 31% | ClC1=C(C(=O)NC)C=CC=N1 | C7H7ClN2O
